US07812021B2
b) (3SR,4RS)-4-(3,4-Dichloro-phenyl)-pyrrolidine-3-carboxylic acid ethyl ester
To a solution of (3SR,4RS)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidine-3-carboxylic acid ethyl ester 2.50 g (6.61 mmol) dissolved in CH3CN (55 mL) was added 1.34 mL (9.91 mmol) of 2,2,2-trichloroethyl chloroformate and stirring was continued for 4 hours at RT. Volatiles were removed under vacuo, and the residue was dissolved in AcOH (25 mL) before a total of 1.20 g of Zn dust was added portion wise. After three hours at RT, the reaction mixture was filtered on celite, the solvent removed under vacuo, followed by an extraction with EtOAc/aq. NaHCO3 (basic pH). The organic phases were dried on Na2SO4 and column chromatography (SiO2, CH2Cl2/MeOH 9:1) yielded 1.85 g (97%) of the title compound as a light yellow oil. ES-MS m/e: 288.1 (M+H+).

reactant | (3SR,4RS)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidine-3-carboxylic acid ethyl ester | 6.61 mmol, 2.50 g | C(C)OC(=O)C1CN(CC1C1=CC(=C(C=C1)Cl)Cl)CC1=CC=CC=C1 | C20H21Cl2NO2
reactant | 2,2,2-trichloroethyl chloroformate | 9.91 mmol, 1.34 mL | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | CH3CN | 55 mL | CC#N | C2H3N
product | (3SR,4RS)-4-(3,4-Dichloro-phenyl)-pyrrolidine-3-carboxylic acid ethyl ester | 1.85 g, 97% | C(C)OC(=O)C1CNCC1C1=CC(=C(C=C1)Cl)Cl | C13H15Cl2NO2
